US08071592B2
(b) 7-Fluoro-3,4-dihydro-2(1H)-quinoxalinone
Methyl N-(4-fluoro-2-nitrophenyl)glycinate (40 g, 175 mmol) in water (2000 mL) was heated to 90° C. Sodium dithionite (243.8 g, 1401 mmol) was added in portions. The resulting mixture was heated at 100° C. for 2 h, then allowed to cool. The solid was filtered off, washed with water and dried to give the product (13.75, 47%). Concentration of the liquor by evaporation to ˜700 mL gave a further precipitate which was filtered off, washed and dried as before to give more product (1.90 g: total yield 15.65 g, 54%).

reactant | Methyl N-(4-fluoro-2-nitrophenyl)glycinate | 175 mmol, 40 g | FC1=CC(=C(C=C1)NCC(=O)OC)[N+](=O)[O-] | C9H9FN2O4
reactant | Sodium dithionite | 1401 mmol, 243.8 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 2000 mL | O | H2O
product | 7-Fluoro-3,4-dihydro-2(1H)-quinoxalinone | FC1=CC=C2NCC(NC2=C1)=O | C8H7FN2O
